US06608101B1
Ex-59A: To a solution of 4′-hydroxy-3′,5′-dimethoxyacetophenone (1 g, 5.1 mmol) in N,N-dimethylformamide were added tert-butyldimethylsilyl chloride (1,15 g, 7.6 mmol) and imidazole (0.69 g, 10.2 mmol). The mixture was stirred at room temperature overnight. Upon quenching with 1 M sulfuric acid solution, the mixture was extracted with dichloromethane. The organic phase was washed with saturated sodium bicarbonate and brine. It was dried and evaporated. Water (2 mL) was added to the residue, and the precipitate was filtered out and dried over an oil pump to give 1.28 g (81%) of 3′,5′-dimethoxy-4′-(tert-butyldimethylsiloxy)acetophenone as a white solid, m.p. 90-92° C.

reactant | 4′-hydroxy-3′,5′-dimethoxyacetophenone | 5.1 mmol, 1 g | OC1=C(C=C(C=C1OC)C(C)=O)OC | C10H12O4
reactant | tert-butyldimethylsilyl chloride | 7.6 mmol, 1,15 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 10.2 mmol, 0.69 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3′,5′-dimethoxy-4′-(tert-butyldimethylsiloxy)acetophenone | 1.28 g, 81% | COC=1C=C(C=C(C1O[Si](C)(C)C(C)(C)C)OC)C(C)=O | C16H26O4Si
